US05324833
Fmoc-Asn(Trt)-OH
A suspension of 3.54 g of Fmoc-Asn-OH (10 mmol) and 5.2 g of triphenylmethanol (20 mmol) in 30 ml of acetic acid and 1.9 ml of acetic anhydride (20 mmol) is stirred at 50° for 15 minutes and then a solution of 0.05 ml of conc. sulfuric acid in 5 ml of acetic acid is added. After about one hour at 50° C. a solution forms, and after 11/2 hours a precipitate starts to form. After 3 hours, 200 ml of ice-cold water are slowly added to the suspension, while cooling in ice, the mixture is briefly stirred, and the precipitate is filtered off and thoroughly washed with water. The moist material is dissolved in ethyl acetate, and the organic phase is washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. Before the product starts to crystallize out, the solution is diluted with 1,2-dichloroethane, concentrated again and filtered through 50 g of silica gel. The excess triphenylmethanol is eluted with 200 ml of 1,2-dichloroethane, and then Fmoc-Asn(Trt)-OH is eluted with 500 ml each of a 98:2 and of a 96:4 mixture, of 1,2-dichloroethane and methanol. The residue after evaporation to dryness is dissolved in 10 ml of tetrahydrofuran, 30 ml of ethyl acetate are added, the solution is concentrated to 20 g, and diisopropyl ether is added to crystallize; the Fmoc-Asn(Trt)-OH obtainable in this way melts at 210°-211° (with decomposition).

reactant | Fmoc-Asn-OH | 10 mmol, 3.54 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C19H18N2O5
reactant | triphenylmethanol | 20 mmol, 5.2 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | acetic anhydride | 20 mmol, 1.9 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.05 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | Fmoc-Asn(Trt)-OH | N([C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H32N2O5
